US07732452B2
Step 2: 4-(5-Phenyl-pentanoylamino)-thiophene-3-carboxylic acid
To a solution of 4-(5-phenyl-pentanoylamino)-thiophene-3-carboxylic acid methyl ester (50 mg, 0.16 mmol) in tetrahydrofuran/methanol 2/1 (1.5 ml) was added a 1 N aqueous LiOH solution (0.95 ml, 0.95 mmol). The reaction mixture was stirred at room temperature for 2 h, acidified with 1 N HCl and extracted two times with ethyl acetate. The combined organic layers were washed with water and brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the crude product was purified by thin layer chromatography (SiO2, dichloromethane) to give the title compound as colorless oil (20 mg, 0.07 mmol, 42%).

reactant | 4-(5-phenyl-pentanoylamino)-thiophene-3-carboxylic acid methyl ester | 0.16 mmol, 50 mg | COC(=O)C1=CSC=C1NC(CCCCC1=CC=CC=C1)=O | C17H19NO3S
reactant | LiOH | 0.95 mmol, 1 N, 0.95 ml | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran methanol | 1.5 ml | O1CCCC1.CO
product | 4-(5-Phenyl-pentanoylamino)-thiophene-3-carboxylic acid | 0.07 mmol, 20 mg, 42% | C1(=CC=CC=C1)CCCCC(=O)NC=1C(=CSC1)C(=O)O | C16H17NO3S
